US08048878B2
Synthesis of (E)-(6S*,8R*,9aR*)-6-(3,4,5-trifluorophenyl)-8-hydroxy-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one
TBAF (1.0 M solution in THF, 68.6 μL) was added to a solution of (E)-(6S*,8R*,9aR*)-8-(tert-butyldimethylsilanyloxy)-6-(3,4,5-trifluorophenyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one (21.0 mg) in THF (1.0 mL), and the reaction solution was stirred at room temperature overnight. A saturated ammonium chloride solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 11.5 mg of the title compound. The property values of the compound are as follows.

reactant | TBAF | 1.0 M, 68.6 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (E)-(6S*,8R*,9aR*)-8-(tert-butyldimethylsilanyloxy)-6-(3,4,5-trifluorophenyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one | 21.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H](N2C(/C(/CC[C@@H]2C1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)C1=CC(=C(C(=C1)F)F)F | C33H40F3N3O3Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (E)-(6S*,8R*,9aR*)-6-(3,4,5-trifluorophenyl)-8-hydroxy-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one | 11.5 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2C(/C(/CC[C@@H]2C[C@H](C1)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C27H26F3N3O3
